### PR TITLE
[Merged by Bors] - feat: if `g` is measurable wrt to the pullback by `f` then `g` is a measurable function of `f`

### PR DESCRIPTION
**Pull request by EtienneC30**
Prove the [Doob-Dynkin lemma](https://en.wikipedia.org/wiki/Doob–Dynkin_lemma): let `f : X → Y` and `g : X → Z` be such that `g` is strongly measurable with respect to the pullback by `f`. Then if `Z` is nonempty and completely metrizable there exists a measurable function `h : Y → Z` such that `g = h ∘ f`.

---

Co-authored-by: @D-Thomine

- [x] depends on: #22926
- [x] depends on: #22960

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/FactorsThrough.lean [hunk 1]
```diff
@@ -37,14 +40,90 @@ theorem _root_.Measurable.factorsThrough [MeasurableSpace Z] [MeasurableSingleto
...
+  let g i x : s := ⟨f i x, subset_closure <| Set.mem_iUnion.2 ⟨i, ⟨x, rfl⟩⟩⟩
+  borelize Z
+  have mg i : Measurable (g i) := (hf i).measurable.subtype_mk
+  convert MeasureTheory.measurableSet_exists_tendsto mg with x
+  · refine ⟨fun ⟨c, hc⟩ ↦ ⟨⟨c, ?_⟩, tendsto_subtype_rng.2 hc⟩,
+      fun ⟨c, hc⟩ ↦ ⟨c, tendsto_subtype_rng.1 hc⟩⟩
+    exact mem_closure_of_tendsto hc (Eventually.of_forall fun i ↦ Set.mem_iUnion.2 ⟨i, ⟨x, rfl⟩⟩)
+  infer_instance
+
+theorem stronglyMeasurable_limUnder [MeasurableSpace X] [hZ : Nonempty Z] [l.NeBot]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/FactorsThrough.lean:73]: You shouldn't need the `NeBot` assumption here, if you start your proof with
```
  rcases eq_or_neBot l with rfl | hl
  · simp only [limUnder, lim, Filter.map_bot, bot_le]
    exact stronglyMeasurable_const
```

File: Mathlib/MeasureTheory/Function/FactorsThrough.lean [hunk 2]
```diff
@@ -37,14 +40,90 @@ theorem _root_.Measurable.factorsThrough [MeasurableSpace Z] [MeasurableSingleto
...
 theorem StronglyMeasurable.factorsThrough [TopologicalSpace Z]
     [PseudoMetrizableSpace Z] [T1Space Z] (hg : StronglyMeasurable[mY.comap f] g) :
     g.FactorsThrough f := by
   borelize Z
   exact hg.measurable.factorsThrough
 
+variable {ι : Type*} [MetricSpace Z] [CompleteSpace Z] [Countable ι] {l : Filter ι}
+  [l.IsCountablyGenerated] {f : ι → X → Z}
+
+theorem StronglyMeasurable.measurableSet_exists_tendsto [MeasurableSpace X]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/FactorsThrough.lean:54]: I'm not sure this lemma and the next one belong to this file: they are general results on strongly measurable functions.

File: Mathlib/MeasureTheory/Function/FactorsThrough.lean [hunk 3]
```diff
@@ -37,14 +40,90 @@ theorem _root_.Measurable.factorsThrough [MeasurableSpace Z] [MeasurableSingleto
...
+    · obtain ⟨c, hc⟩ := hx
+      simp_rw [hc.limUnder_eq]
+      exact subset_union_left <| mem_closure_of_tendsto hc
+        (Eventually.of_forall fun i ↦ Set.mem_iUnion.2 ⟨i, ⟨x, rfl⟩⟩)
+    · simp_rw [limUnder_of_not_tendsto hx]
+      exact subset_union_right (mem_singleton z_)
+
+/-- If a function `g` is strongly measurable with respect to the pullback along some function `f`,
+then there exists some measurable function `h : Y → Z` such that `g = h ∘ f`. -/
+theorem exists_eq_measurable_comp [AddZeroClass Z] [ContinuousAdd Z]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/FactorsThrough.lean:108]: It feels really strange to have algebraic assumptions on `Z` here: isn't the theorem true in general? (If you restrict to the closure of the range of `g`, you have a Polish space, so everything should be well-behaved...)

Comment (D-Thomine) [reply Mathlib/MeasureTheory/Function/FactorsThrough.lean:108]: For what it's worth: I managed to replace `[AddZeroClass Z] [ContinuousAdd Z]` with `[Nonempty Z]`, but I had to go back to `MeasureTheory.Function.SimpleFunc` and `MeasureTheory.Function.StronglyMeasurable.Basic` to give alternate versions of `induction` therein, which do not rely on the algebraic structure (basically, you need the propositions to be true on constants and stable under measurable `piecewise`).

Maybe there's something more clever to do, but if needed, I can give the code (which might need some cleaning).

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/FactorsThrough.lean:108]: Oh that's interesting! I also managed to get rid of the assumptions using Borel isomorphism theorem, but I would be glad to see your way to compare. I didn't push my code yet because I want to replace the complete metric assumption by a completely metrizable assumption but there is no typeclass for this so I'm working on that.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/FactorsThrough.lean:108]: Thank you that's great! I think I prefer your approach. Would it be okay for you if I open a PR for the induction on `SimpleFunc` based on your code? Of course I would put you as co-author. Tell me if you prefer to PR it yourself.

Comment (D-Thomine) [reply Mathlib/MeasureTheory/Function/FactorsThrough.lean:108]: Glad it's helpful to you! I'd prefer if you open the PR yourself; it'll be much easier for you to coordinate these lemmas with the remainder of your work.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/FactorsThrough.lean]: Thanks! I opened #22960.

File: Mathlib/Data/Set/Piecewise.lean [hunk 4]
```diff
@@ -96,6 +96,12 @@ theorem piecewise_range_comp {ι : Sort*} (f : ι → α) [∀ j, Decidable (j 
     (g₁ g₂ : α → β) : (range f).piecewise g₁ g₂ ∘ f = g₁ ∘ f :=
   (piecewise_eqOn ..).comp_eq
 
+lemma piecewise_comp (f g : α → γ) (h : β → α) :
+    haveI : DecidablePred (· ∈ h ⁻¹' s) := @instDecidablePredComp _ (· ∈ s) _ h _;
```
Comment (sgouezel) [inline Mathlib/Data/Set/Piecewise.lean:100]:
```suggestion
    letI : DecidablePred (· ∈ h ⁻¹' s) := @instDecidablePredComp _ (· ∈ s) _ h _;
```
This is data

File: Mathlib/MeasureTheory/Function/FactorsThrough.lean [hunk 5]
```diff
@@ -3,47 +3,78 @@ Copyright (c) 2025 Etienne Marion. All rights reserved.
...
     g.FactorsThrough f := by
   borelize Z
   exact hg.measurable.factorsThrough
 
+variable {ι : Type*} [TopologicalSpace Z] [IsCompletelyMetrizableSpace Z]
+  [Countable ι] {l : Filter ι} [l.IsCountablyGenerated] {f : ι → X → Z}
+
+/-- If a function `g` is strongly measurable with respect to the pullback along some function `f`,
+then there exists some measurable function `h : Y → Z` such that `g = h ∘ f`. -/
+theorem StronglyMeasurable.exists_eq_measurable_comp [Nonempty Z] {f : X → Y} {g : X → Z}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/FactorsThrough.lean:57]: What about giving also a version where you assume that `X` is a measurable space and `f` is measurable?

**Comment by sgouezel** [comment]
bors r+
Thanks!
